US04970213
A suspension of 1.5 g of (RS)-3-ethoxycarbonyl-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 20 cm3 of ethanol and 20 cm3 of N aqueous potassium hydroxide solution is heated at a temperature close to 75° C. for 1 hour and a half. 12 g of a 10% aqueous solution of acetic acid is added to the solution obtained, at this latter temperature. The insoluble matter obtained is drained at about 75° C. and washed 3 times with 30 cm3 of water at about 20° C. After recrystallizing once from 100 cm3 of dimethylformamdide, 0.9 g of (RS)-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 380°-382° C.

reactant | (RS)-3-ethoxycarbonyl-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 1.5 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C(=C(C(=C3)F)N3CC(NCC3)C)F)=O | C21H22F2N4O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | (RS)-7,9-difluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.9 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1N1CC(NCC1)C)F | C19H18F2N4O3
